US04450169
40 g of manganese dioxide were added to a solution of 10 g of (2-phenoxy-5-thiazolyl)-methanol in 250 ml of benzene and the mixture was stirred at 40° C. for 5 hours and was filtered. The filtrate was evaporated to dryness and the residue was chromatographed over silica gel.Elution with a 7-3 methylene chloride-ethyl acetate mixture yielded 7.7 g of (2-phenoxy-5-thiazolyl)-methanal melting at 50° C.

reactant | (2-phenoxy-5-thiazolyl)-methanol | 10 g | O(C1=CC=CC=C1)C=1SC(=CN1)CO | C10H9NO2S
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
catalyst | manganese dioxide | 40 g | [O-2].[O-2].[Mn+4]
product | (2-phenoxy-5-thiazolyl)-methanal | 7.7 g | O(C1=CC=CC=C1)C=1SC(=CN1)C=O | C10H7NO2S
